US08470847B2
8.3: 2-(Aminocyclopentyl)-6-chloronicotinic acid fluoride
0.34 ml (4.15 mmol) of pyridine and 0.53 ml (6.23 mmol) of 2,4,6-trifluorotriazine are added to a suspension of 1.0 g (4.15 mmol) of 2-(aminocyclopentyl)-6-chloronicotinic acid in 12 ml of dichloromethane. The mixture is stirred for 2 hours at ambient temperature and then diluted with dichloromethane. The organic phase is washed twice with an ice-cold solution of NaHCO3aq and then dried over Na2SO4, filtered, and concentrated under reduced pressure. 1 g of product is obtained in the form of a brown oil, which is used immediately in the next step. Quantitative crude yield.

reactant | pyridine | 4.15 mmol, 0.34 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,4,6-trifluorotriazine | 6.23 mmol, 0.53 ml | FN1NC(=CC(=N1)F)F | C3H2F3N3
reactant | 2-(aminocyclopentyl)-6-chloronicotinic acid | 4.15 mmol, 1.0 g | NC1(CCCC1)C1=C(C(=O)O)C=CC(=N1)Cl | C11H13ClN2O2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 2-(Aminocyclopentyl)-6-chloronicotinic acid fluoride | 1 g | NC1(CCCC1)C1=C(C(=O)F)C=CC(=N1)Cl | C11H12ClFN2O
